US04092427
Dimethyl 2-formylcyclopropane-1,1-dicarboxylate (2; L = radical A in which R5 = CH3)
By following the procedure of D. T. Warner, cited above, used for preparing diethyl 2-formylcyclopropane-1,1-dicarboxylate from acrolein but using equivalent amounts of dimethylbromoalonate and methanol instead of diethylbromomalonate and ethanol, respectively, the title compound, nmr (CDCl3) δ 1.98 (m, 2H), 2.80 (m, 1H), 3.79 (s, 6H), 8.82 (d, J = 4 cps, 1H), is obtained.

reactant | diethyl 2-formylcyclopropane-1,1-dicarboxylate | C(=O)C1C(C1)(C(=O)OCC)C(=O)OCC | C10H14O5
reactant | acrolein | C(=O)C=C | C3H4O
reactant | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | Dimethyl 2-formylcyclopropane-1,1-dicarboxylate | C(=O)C1C(C1)(C(=O)OC)C(=O)OC | C8H10O5
